US05486466
A solution of 61 mg of tert-butyl (4R, 7S)-14-(tert-butyldimethylsilyloxy)-1,3,4,5,6,7,8,10-octahydro-12-methoxy-4-methoxycarbonyl-11-methyl-6,10-dioxo-9,2,5-benzoxathiaazacyclododecine-7-carbamate and 11.4 mg of tetraisopropyl orthotitanate in 2 ml of ethanol was heated at reflux for 40 hours. The solution was diluted with ethyl acetate and washed successively with 1N hydrochloric acid and with brine. The organic layer was dried over sodium sulfate and evaporated in vacuo. The residue was chromatographed on silica gel using ethyl acetate/hexane (1:2, v/v) as eluent to yield tert-butyl (4R, 7S)-14-(tert-butyldimethylsilyloxy)-4-ethoxycarbonyl-1,3,4,5,6,7,8,10-octahydro-12-methoxy-11-methyl-6,10-dioxo-9,2,5-benzoxathiaazacyclododecine-7-carbamate. This material was treated with ammonium fluoride in methanol in an analogous manner to the procedure described in Example 13 to yield, after crystallization from ethyl acetate/hexane, tert-butyl (4R, 7S)-4-ethoxycarbonyl-1,3,4,5,6,7,8,10-octahydro-14-hydroxy-12-methoxy-11-methyl-6,10-dioxo-9,2,5-benzoxathiaazacyclododecine-7-carbamate as a white solid.

reactant | tert-butyl (4R, 7S)-14-(tert-butyldimethylsilyloxy)-1,3,4,5,6,7,8,10-octahydro-12-methoxy-4-methoxycarbonyl-11-methyl-6,10-dioxo-9,2,5-benzoxathiaazacyclododecine-7-carbamate | 61 mg | [Si](C)(C)(C(C)(C)C)OC1=CC(=C(C=2C(OC[C@@H](C(N[C@@H](CSCC21)C(=O)OC)=O)NC(=O)OC(C)(C)C)=O)C)OC | C28H44N2O9SSi
reactant | ethanol | 2 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetraisopropyl orthotitanate | 11.4 mg | CC(C)[O-].CC(C)[O-].CC(C)[O-].CC(C)[O-].[Ti+4]
product | tert-butyl (4R, 7S)-14-(tert-butyldimethylsilyloxy)-4-ethoxycarbonyl-1,3,4,5,6,7,8,10-octahydro-12-methoxy-11-methyl-6,10-dioxo-9,2,5-benzoxathiaazacyclododecine-7-carbamate | [Si](C)(C)(C(C)(C)C)OC1=CC(=C(C=2C(OC[C@@H](C(N[C@@H](CSCC21)C(=O)OCC)=O)NC(=O)OC(C)(C)C)=O)C)OC | C29H46N2O9SSi
